US08710232B2
2-Piperidin-4-ylethanol (1.12 g; 8.65 mmol) was introduced into dimethylformamide (DMF, 10 ml). Then hydroxybenzotriazole (HOBT, 1.46 g, 9.51 mmol), 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (EDC.HCl, 1.83 g; 9.51 mmol) and diphenylacetic acid (2.02 g; 9.51 mmol) were added in this sequence. N,N-diisopropyl-ethylamine (DIEA; 1.67 ml; 9.51 mmol) was then added to the reaction mixture, which was stirred at RT for 16 h. The reaction solution was concentrated under reduced pressure. The residue was taken up in EA, and the organic solution was washed successively with saturated NaHCO3 solution, 2N HCl and saturated NaCl solution. The organic phase was separated off, dried over Na2SO4, filtered and concentrated. The 1-[4-(2-hydroxyethyl)piperidin-1-yl]-2,2-diphenylethanone (2.39 g; 8.11 mmol) obtained in this way was reacted further without further purification.

reactant | 2-Piperidin-4-ylethanol | 8.65 mmol, 1.12 g | N1CCC(CC1)CCO | C7H15NO
reactant | hydroxybenzotriazole | 9.51 mmol, 1.46 g | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 9.51 mmol, 1.83 g | Cl.C(C)N=C=NCCCN(C)C
reactant | diphenylacetic acid | 9.51 mmol, 2.02 g | C1(=CC=CC=C1)C(C(=O)O)C1=CC=CC=C1 | C14H12O2
reactant | N,N-diisopropyl-ethylamine | 9.51 mmol, 1.67 ml | C(C)(C)N(C(C)C)CC | C8H19N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-[4-(2-hydroxyethyl)piperidin-1-yl]-2,2-diphenylethanone | 8.11 mmol, 2.39 g | OCCC1CCN(CC1)C(C(C1=CC=CC=C1)C1=CC=CC=C1)=O | C21H25NO2
